US05932606
Step C: 1-t-Butylmethylaminocarbonylmethyl-4-methyl-5-aminomethylimidazole
A solution of 1-t-butylmethylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole (400 mg) and 10% Pd/C (400 mg) in ethyl acetate (60 ml) was hydrogenated at atmospheric pressure for 4 h. The solution was filtered through Celite and the solvents removed in vacuo to give the title compound. 1H NMR (CDCl3) d 0.80 (s, 9 H), 1.61 (br s, 2 H), 2.23 (s, 3 H), 2.99 (d, J=6.1 Hz, 2 H), 3.86 (s, 2 H), 4.63 (s, 2 H), 7.50 (s, 1 H).

reactant | 1-t-butylmethylaminocarbonylmethyl-4-methyl-5-azidomethylimidazole | 400 mg | C(C)(C)(C)CNC(=O)CN1C=NC(=C1CN=[N+]=[N-])C | C12H20N6O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 1-t-Butylmethylaminocarbonylmethyl-4-methyl-5-aminomethylimidazole | C(C)(C)(C)CNC(=O)CN1C=NC(=C1CN)C | C12H22N4O
